US04202706
Following the procedure of Example 1, N-allyl-N-ethyltrifluoromethanesulfonamide (b.p. 395° C. at 1.50-0.35 torr) was reacted with diethylphosphite to produce diethyl 3-(N-ethyltrifluoromethanesulfonamido)propanephosphonate (b.p. 147°-155° C. at 0.25 torr). Following the procedure of Example 2, this phosphonate was hydrolyzed to produce the corresponding phosphonic acid (m.p. 137.5°-139.5° C.).

reactant | N-allyl-N-ethyltrifluoromethanesulfonamide | C(C=C)N(S(=O)(=O)C(F)(F)F)CC | C6H10F3NO2S
reactant | diethylphosphite | C(C)OP(OCC)[O-]
product | diethyl 3-(N-ethyltrifluoromethanesulfonamido)propanephosphonate | C(C)N(S(=O)(=O)C(F)(F)F)CCCP(OCC)(=O)OCC | C10H21F3NO5PS
